US06825181B1
Step 5: Synthesis of 6-iodo-7-methoxyisoquinoline:
20.5 g (39.6 mmol) of N-(2,2-dimethoxyethyl)-N-(4-iodo-3-methoxybenzyl)-4-methylbenzenesulfonamide was dissolved in a mixture of 240 ml of dioxane and 70 ml of 6 N hydrochloric acid, and the obtained solution was heated under reflux for 2 hours. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the obtained crude product was dissolved in a mixture of 100 ml of DMF and 100 ml of t-butyl alcohol. 2.54 g (22.6 mmol) of potassium t-butoxide was added to the obtained solution and they were stirred at 40° C. for 3 hours. After the treatment with dichloromethane as the extraction solvent in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | N-(2,2-dimethoxyethyl)-N-(4-iodo-3-methoxybenzyl)-4-methylbenzenesulfonamide | 39.6 mmol, 20.5 g | COC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(=C(C=C1)I)OC)OC | C19H24INO5S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | potassium t-butoxide | 22.6 mmol, 2.54 g | CC(C)([O-])C.[K+]
solvent | dioxane | 240 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 6 N, 70 ml | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | t-butyl alcohol | 100 ml | C(C)(C)(C)O | C4H10O
product | 6-iodo-7-methoxyisoquinoline | IC=1C=C2C=CN=CC2=CC1OC | C10H8INO
